US04287367
6 parts of sodium methylate are added in portions in the course of 2 hours to a solution of 21 parts of benzil and 37 parts of p-toluenesulfonic acid methyl ester in 50 parts of dimethylformamide at room temperature, whilst stirring. The reaction mixture is then heated with 500 parts of water for 1 hour under reflux and subsequently cooled to room temperature, and the precipitate is filtered off and recrystallized from a mixture of isopropanol and water. 22 parts of benzil dimethylketal are obtained.

reactant | sodium methylate | C[O-].[Na+]
reactant | benzil | C1(=CC=CC=C1)C(=O)C(=O)C1=CC=CC=C1 | C14H10O2
reactant | p-toluenesulfonic acid methyl ester | COS(=O)(=O)C1=CC=C(C=C1)C | C8H10O3S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | benzil dimethylketal | COC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OC | C16H16O3
